US09343198B2
1,4-dihydroxyanthracene-9,10-dione (5.0 g, 20.6 mmol), 1-bromooctane (10.0 g, 51.8 mmol), and potassium carbonate (37 g, 0.268 mol) was mixed in N,N-dimethylformamide and heated at 90° C. for 7 h after which the potassium carbonate was filtered off. The reaction mixture was quenched with water and extracted three times with ether. The ether was then washed three times with 1M HCl, one time with water, and evaporated to give a dark yellow solid. This solid was recrystallised in methanol to yield 1,4-bis(octyloxy)anthracene-9,10-dione (1.81 g, 3.88 mmol) as a yellow solid. 1H-NMR (CDCl3, δ): 0.89 (t, 6H), 1.2-1.4 (m, 16H), 1.53 (m, 4H), 1.93 (m, 4H), 4.10 (t, 4H), 7.30 (s, 2H), 7.71 (m, 2H), 8.16 (m, 2H) MS MALDI-TOF (m/z): 464.328

reactant | 1,4-dihydroxyanthracene-9,10-dione | 20.6 mmol, 5.0 g | OC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O | C14H8O4
reactant | 1-bromooctane | 51.8 mmol, 10.0 g | BrCCCCCCCC | C8H17Br
reactant | potassium carbonate | 0.268 mol, 37 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1,4-bis(octyloxy)anthracene-9,10-dione | 3.88 mmol, 1.81 g | C(CCCCCCC)OC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)OCCCCCCCC | C30H40O4
